US06846835B2
Synthesis of 1-ethylpiperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoate
To a solution of 25 mg of piperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoate in 1 ml of methanol, 50 mg of acetaldehyde and 10 mg of sodium cyanoborohydride were added at room temperature, followed by two hours' stirring at the same temperature. The reaction liquid was diluted with chloroform, washed successively with saturated sodium hydrogencarbonate solution and with saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the residue was purified on preparative thin layer chromatography (Kieselgel™60F254, Art5744 (Merck), chloroform/methanol=10/1) to provide the title compound.

reactant | piperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoate | 25 mg | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCNCC1)(C1=CC=C(C=C1)Cl)O)F | C18H22ClF2NO3
reactant | acetaldehyde | 50 mg | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 10 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-ethylpiperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)CC)(C1=CC=C(C=C1)Cl)O)F | C20H26ClF2NO3
